US08008303B2
4′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-3-carboxylic acid
A mixture of (4-bromo-3-methyl-phenyl)-carbamic acid tert-butyl ester (765 mg), 3-carboxyphenyl boronic acid (446 mg), cesium carbonate (875 mg) and tetrakis(triphenylphosphine)palladium0 (catalytic quantity), in 1:2 aqueous DME (30 ml) was heated to reflux for 18 h. The mixture was then allowed to cool and was then partitioned between 1M HCl and dichloromethane. The dried extracts were then evaporated giving the title compound as a pale brown foam (785 mg).

reactant | (4-bromo-3-methyl-phenyl)-carbamic acid tert-butyl ester | 765 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)Br)C)=O | C12H16BrNO2
reactant | 3-carboxyphenyl boronic acid | 446 mg | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | cesium carbonate | 875 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 30 ml | COCCOC | C4H10O2
product | 4′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-3-carboxylic acid | 785 mg | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)C1=CC(=CC=C1)C(=O)O)C | C19H21NO4
